US07638517B2
To a RT solution of 3-phenyl-3-(1H-pyrrolo[3,2-b]pyridin-3-yl)-propionic acid (150 mg, 0.56 mmol) in DMF (2 mL) was added MeNH2 (2 M in THF, 0.85 mL, 1.7 mmol) followed by benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (300 mg, 0.67 mmol) and TEA (0.12 mL, 0.85 mmol). The mixture was stirred at RT for 3 h, then a saturated solution of NaHCO3 was added, and the mixture was extracted 3 times with EtOAc. The combined organic layers were dried over Na2SO4, filtered, concentrated, and purified via flash chromatography (DCM/MeOH/NH4OH), affording N-Methyl-3-phenyl-3-(1H-pyrrolo[3,2-b]pyridin-3-yl)-propionamide.

reactant | 3-phenyl-3-(1H-pyrrolo[3,2-b]pyridin-3-yl)-propionic acid | 0.56 mmol, 150 mg | C1(=CC=CC=C1)C(CC(=O)O)C1=CNC=2C1=NC=CC2 | C16H14N2O2
reactant | MeNH2 | 1.7 mmol, 2 M, 0.85 mL | CN | CH5N
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 0.67 mmol, 300 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-Methyl-3-phenyl-3-(1H-pyrrolo[3,2-b]pyridin-3-yl)-propionamide | CNC(CC(C1=CNC=2C1=NC=CC2)C2=CC=CC=C2)=O | C17H17N3O
